US09216975B2
Preparation of 2-isopropoxy-6-(trifluoromethyl)pyridine-3-carbonitrile 28a (Scheme 14)
The 2-chloro-6-trifluoromethyl-nicotinonitrile (0.5 g, 2.4 mmol) was added in small portion to a mixture of NaH 60% (4 mol eq) in isopropanol (20 mL). The reaction mixture was heated at 50° C. overnight. The solvent was distilled and water was added to the residue. The aqueous solution was extracted with EtOAc (3×25 mL) and the organic phases were evaporated at reduced pressure to give e as a yellow solid (0.45 g, 82% Yield, 1.96 mmol). 1HNMR (DMSO, 200 MHz) δ 1.35 (s, 3H), 1.38 (s, 3H), 5.33 (m, 1H), 7.55 (d, 1H, J=6), 8.26 (d, 1H, J=6).

reactant | 2-chloro-6-trifluoromethyl-nicotinonitrile | 2.4 mmol, 0.5 g | ClC1=C(C#N)C=CC(=N1)C(F)(F)F | C7H2ClF3N2
reactant | NaH | 4 mol | [H-].[Na+]
reactant | isopropanol | 20 mL | C(C)(C)O | C3H8O
product | 2-isopropoxy-6-(trifluoromethyl)pyridine-3-carbonitrile | 1.96 mmol, 0.45 g, 82% Yield | C(C)(C)OC1=NC(=CC=C1C#N)C(F)(F)F | C10H9F3N2O
